### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): functorial constructions of ideal sheaves

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/IdealSheaf/Functorial.lean [hunk 1]
```diff
@@ -0,0 +1,196 @@
...
+universe u
+
+open CategoryTheory Limits
+
+namespace AlgebraicGeometry
+
+variable {X Y Z : Scheme.{u}}
+
+instance (f : X ⟶ Z) (g : Y ⟶ Z) [IsClosedImmersion g] : IsClosedImmersion (pullback.fst f g) :=
+  MorphismProperty.pullback_fst _ _ ‹_›
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/IdealSheaf/Functorial.lean:33]: This should not be here.

File: Mathlib/AlgebraicGeometry/IdealSheaf/Functorial.lean [hunk 2]
```diff
@@ -0,0 +1,196 @@
...
+@[simp]
+lemma map_id (I : Z.IdealSheafData) :
+    I.map (𝟙 _) = I := by
+  simp [map]
+
+lemma map_ker (f : X ⟶ Y) (g : Y ⟶ Z) : f.ker.map g = (f ≫ g).ker := by
+  simp [← map_bot]
+
+lemma _root_.AlgebraicGeometry.Scheme.Hom.ker_comp
+    (f : X ⟶ Y) (g : Y ⟶ Z) : (f ≫ g).ker = f.ker.map g := (map_ker f g).symm
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/IdealSheaf/Functorial.lean:139]:
```suggestion
@[simp]
lemma _root_.AlgebraicGeometry.Scheme.Hom.ker_comp
    (f : X ⟶ Y) (g : Y ⟶ Z) : (f ≫ g).ker = f.ker.map g := (map_ker f g).symm
```
maybe?

File: Mathlib/AlgebraicGeometry/IdealSheaf/Functorial.lean [hunk 3]
```diff
@@ -0,0 +1,196 @@
...
+    RingHom.ker_coe_equiv (I.subschemeObjIso ⟨_, H⟩).symm.commRingCatIsoToRingEquiv
+  simp [map, ← RingHom.comap_ker, subschemeι_app _ ⟨_, H⟩,
+    this, ← RingHom.ker_eq_comap_bot]
+
+lemma ideal_map_of_isAffineHom
+    (I : X.IdealSheafData) (f : X ⟶ Y) [IsAffineHom f] (U : Y.affineOpens) :
+    (I.map f).ideal U = (I.ideal ⟨_, U.2.preimage f⟩).comap (f.app U).hom :=
+  ideal_map I f U (U.2.preimage f)
+
+lemma ideal_comap (I : Y.IdealSheafData) (f : X ⟶ Y) [IsOpenImmersion f] (U : X.affineOpens) :
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/IdealSheaf/Functorial.lean:171]:
```suggestion
lemma ideal_comap_of_isOpenImmersion (I : Y.IdealSheafData) (f : X ⟶ Y) [IsOpenImmersion f] (U : X.affineOpens) :
```

File: Mathlib/AlgebraicGeometry/IdealSheaf/Functorial.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/IdealSheaf/Functorial.lean:139]: I'm not sure about this. It might make the simp non confluent on e.g. `(f ≫ g).ideal U`. I'll come back and tag this if this proves to be useful.

**Comment by chrisflav** [comment]
Thanks!

maintainer merge
